US07754737B2
(3S,4S)-benzyl 3-amino-4-cyclohexylpiperidine-1-carboxylate (23 mg, 0.073 mmol), 4-nitrophenyl chloroformate (16 mg, 1.1 equiv) and powdered NaHCO3 (13 mg, 2 equiv) were mixed with acetonitrile (3 mL). The mixture was stirred 1 h at rt. LC-MS showed the reaction was complete. The reaction mixture was concentrated to afford (3S,4S)-benzyl 4-cyclohexyl-3-((4-nitrophenoxy)carbonylamino)piperidine-1-carboxylate which was used directly in the next step. LC-MS (3 min) tR=2.24 min., m/z 482 (M+1).

reactant | (3S,4S)-benzyl 3-amino-4-cyclohexylpiperidine-1-carboxylate | 0.073 mmol, 23 mg | N[C@@H]1CN(CC[C@H]1C1CCCCC1)C(=O)OCC1=CC=CC=C1 | C19H28N2O2
reactant | 4-nitrophenyl chloroformate | 16 mg, 1.1 equiv | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | NaHCO3 | 13 mg, 2 equiv | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (3S,4S)-benzyl 4-cyclohexyl-3-((4-nitrophenoxy)carbonylamino)piperidine-1-carboxylate | C1(CCCCC1)[C@H]1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C26H31N3O6
